US05324747
A mixture of 1.65 g of N-(3,5-didecylphenyl)-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester and 0.5 g of 10% palladium on carbon in 100 ml of THF was shaken under an initial hydrogen pressure of 53 psi for 5 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was recrystallized from methanol-water to give 0.98 g (81% yield, mp 78°-81°) of N-(carboxymethyl)-N-(3,5-didecylphenyl)glycine.

reactant | N-(3,5-didecylphenyl)-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 1.65 g | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C1=CC(=CC(=C1)CCCCCCCCCC)CCCCCCCCCC)=O | C44H63NO4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-(3,5-didecylphenyl)glycine | 0.98 g, 81% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)CCCCCCCCCC)CCCCCCCCCC | C30H51NO4
